US04171431
A reaction mixture consisting of 1.9 gm. (0.015 mole) of 5,6-dihydro-5-methyl-s-triazine-2,4-(1H,3H)-dione, 50 ml. hexamethyldisilazane, and 2 mg. ammonium sulfate is heated at the reflux temperature in an environment free from moisture for 48 hours. The mixture is then cooled to 25° C. and the excess hexamethyldisilazane is removed by evaporation under reduced pressure. Toluene is added to the residue thus obtained and anhydrous conditions are maintained by flushing with nitrogen gas. Toluene is removed by distillation. This toluene distillation is repeated; and the 2,4-bis(trimethylsilyloxy)-5,6-dihydro-5 -methyl-s-triazine thus obtained is kept under high vacuum until used.

reactant | 5,6-dihydro-5-methyl-s-triazine-2,4-(1H,3H)-dione | 0.015 mole | CN1C(NC(NC1)=O)=O | C4H7N3O2
reactant | hexamethyldisilazane | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | ammonium sulfate | S(=O)(=O)([O-])[O-].[NH4+].[NH4+]
product | 2,4-bis(trimethylsilyloxy)-5,6-dihydro-5 -methyl-s-triazine | C[Si](OC1=NCN(C(=N1)O[Si](C)(C)C)C)(C)C | C10H23N3O2Si2
